US08252935B2
b) 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester
A solution of 4-Methyl-2-(5-pyridin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester, compound 33a (1.0 g, 2.27 mmol) in MeOH (75 ml), platinum oxide (51 mg, 0.97 mmol) and 4N HCl/dioxane (0.62 ml) was hydrogenated at 40 psi for 5.5 hours. The reaction mixture was filtered through celite, washed with MeOH and concentrated in vacuo. The residue was partitioned between dichloromethane and Na2CO3 to give the free base, (977 mg, 97% ). Calculated for C26H32F3NO2 (M+H) 447.53, Found 448.3

reactant | 4-Methyl-2-(5-pyridin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C=1C=NC=CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H26F3NO2
reactant | HCl dioxane | 4N, 0.62 ml | Cl.O1CCOCC1
solvent | MeOH | 75 ml | CO | CH4O
catalyst | platinum oxide | 0.97 mmol, 51 mg | [Pt]=O
product | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
